US04166853
A solution of 3.9 g of 4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoic acid and thionyl chloride is allowed to reflux for 41/2 hours. After isolation, the acid chloride is dissolved in 100 ml pyridine and 4.0 g of 4-[4-chlorophenyl]-1,2,5,6-tetrahydropyridine is added. The reaction is stirred overnight and then partitioned between chloroform and aqueous sodium carbonate. The organic phase is dried and concentrated. The residue is crystallized from methylene chloride. The crystals are filtered, washed with ether, and dried to yield 2.99 g (57%) of 4-(4-chlorophenyl)-1,2,5,6-tetrahydro-1-[4-[[7-(trifluoromethyl)-4-quinolinyl]-amino]benzoyl]pyridine, of melting point 225°-226° C.

reactant | 4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoic acid | 3.9 g | FC(C1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C(=O)O)C=C1)(F)F | C17H11F3N2O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 4-[4-chlorophenyl]-1,2,5,6-tetrahydropyridine | 4.0 g | ClC1=CC=C(C=C1)C1=CCNCC1 | C11H12ClN
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 4-(4-chlorophenyl)-1,2,5,6-tetrahydro-1-[4-[[7-(trifluoromethyl)-4-quinolinyl]-amino]benzoyl]pyridine | 2.99 g, 57% | ClC1=CC=C(C=C1)C1=CCN(CC1)C(C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)C(F)(F)F)=O | C28H21ClF3N3O
